US05326497
0.5 g of (Z)-3-octenoic acid, 1.0 g of 2-[4-(5-[propyloxy]-1-pentyl)phenyl]-5-hydroxypyridine, 07 g of N,N'-dicyclohexyl-carbodiimide, 0.04 g of (dimethylaminio)pyridine and 50 ml of dichloromethane were reacted in an analogous manner to Example 1 to give 2-[4-(5-[propyloxy]-1-pentyl)phenyl]-5-([(Z)-3-octenoyl]oxy)pyridine.

reactant | (Z)-3-octenoic acid | 0.5 g | C(C\C=C/CCCC)(=O)O | C8H14O2
reactant | 2-[4-(5-[propyloxy]-1-pentyl)phenyl]-5-hydroxypyridine | 1.0 g | C(CC)OCCCCCC1=CC=C(C=C1)C1=NC=C(C=C1)O | C19H25NO2
reactant | N,N'-dicyclohexyl-carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-[4-(5-[propyloxy]-1-pentyl)phenyl]-5-([(Z)-3-octenoyl]oxy)pyridine | C(CC)OCCCCCC1=CC=C(C=C1)C1=NC=C(C=C1)OC(C\C=C/CCCC)=O | C27H37NO3
